US08871753B2
Step B: N-{3-[2-(5-Aminopyridin-3-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride
Into a reaction flask were added tert-butyl [5-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate (48 mg, 0.11 mmol), methanol (0.50 mL) and 4.0 M of hydrogen chloride in 1,4-dioxane (0.50 mL). The reaction mixture was stirred at rt for 2 h and then concentrated under vacuum to give the desired product as an off-white powder (35 mg, 97%). LCMS for C17H16ClFN5 (M+H)+: m/z=344.0.

reactant | tert-butyl [5-(2-{3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 0.11 mmol, 48 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O)F | C22H23ClFN5O2
reactant | methanol | 0.50 mL | CO | CH4O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(5-Aminopyridin-3-yl)ethyl]phenyl}-2-chloro-5-fluoropyrimidin-4-amine dihydrochloride | 35 mg, 97% | Cl.Cl.NC=1C=C(C=NC1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | InChI=1S/C17H15ClFN5.2ClH/c18-17-22-10-15(19)16(24-17)23-14-3-1-2-11(7-14)4-5-12-6-13(20)9-21-8-12;;/h1-3,6-10H,4-5,20H2,(H,22,23,24);2*1H
